### PR TITLE
Functor coalgebras

### PR DESCRIPTION
**Pull request by Chgrau**
This defines coalgebras for an endofunctor over some category C. It describes coalgebras in general, the precategory of coalgebras over a given function and the dual of Lambeks lemma.

I guess that in principle, all of this could have been show by op'ing the functor algebras, but I think it is better to have coalgebras defined primitively.

### CODE REVIEW

**Comment by benediktahrens** [comment]
@Chgrau : the raw log on [1] shows a compilation error in
```
File "./UniMath/CategoryTheory/FunctorCoalgebras.v", line 185, characters 50-57:
```

[1] https://api.travis-ci.org/v3/job/319223037/log.txt

**Comment by DanGrayson** [comment]
This fixes it:
```
diff --git a/UniMath/CategoryTheory/FunctorCoalgebras.v b/UniMath/CategoryTheory/FunctorCoalgebras.v
index a5e3d6fa..f777c26e 100644
--- a/UniMath/CategoryTheory/FunctorCoalgebras.v
+++ b/UniMath/CategoryTheory/FunctorCoalgebras.v
@@ -181,8 +181,7 @@ Defined.
 
 Lemma αα'_idA : α · α' = identity A.
 Proof.
-  apply pathsinv0.
-  apply (maponpaths pr1 (TerminalEndo_is_identity F_CoAlg TerminalX αα'_mor)).
+  apply (maponpaths pr1 (TerminalEndo_is_identity (T:=TerminalX) αα'_mor)).
 Defined.
 
 Lemma α'α_idFA : α' · α = identity (F A).
```

**Comment by DanGrayson** [comment]
There are three places where all the question marks after an `intros` can be removed, making things clearer.

Other than that, it looks fine to me.

File: UniMath/CategoryTheory/FunctorCoalgebras.v [hunk 1]
```diff
@@ -182,7 +182,7 @@ Defined.
 Lemma αα'_idA : α · α' = identity A.
 Proof.
   apply pathsinv0.
-  apply (maponpaths pr1 (TerminalEndo_is_identity F_CoAlg TerminalX αα'_mor)).
+  apply (maponpaths pr1 (!@TerminalEndo_is_identity F_CoAlg TerminalX αα'_mor)).
```
Comment (DanGrayson) [inline UniMath/CategoryTheory/FunctorCoalgebras.v]: Instead of applying `pathsinv0` twice, apply it zero times in this proof.

Comment (Chgrau) [reply UniMath/CategoryTheory/FunctorCoalgebras.v]: Yes I just realised this. This is done in newest push. Thanks

**Comment by DanGrayson** [comment]
lgtm
